2132-02-06 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2132-2-6**] 04:07 AM
 ARTERIAL LINE - START [**2132-2-6**] 06:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Propofol - 50 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-2-6**] 05:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-6**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 78 (73 - 84) bpm
   BP: 125/77(95) {123/77(95) - 125/78(96)} mmHg
   RR: 26 (23 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             2,451 mL
   PO:
             TF:
   IVF:
   171 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    450 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,001 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 47 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.22/73.[**Numeric Identifier **]/101//0
   Ve: 9.4 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   14.1 g/dL
   41.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2132-2-6**]  05:29 AM
                             [**2132-2-6**]  06:42 AM
   WBC
   10.1
   Hct
   41.1
   Plt
   219
   TCO2
   31
   Other labs: PT / PTT / INR:12.9/71.5/1.1, Lactic Acid:1.0 mmol/L
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-2-6**] 04:32 AM
   20 Gauge - [**2132-2-6**] 04:32 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-02-07 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: status asthmaticus
   24 Hour Events:
   - RR weaned with permissive hypercapnea
   - nasal aspirate viral culture negative, dopplet precautions
   discontinued
   - CEs negative x 3
   - GNRs in sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-2-7**] 01:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-7**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-7**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 103 (71 - 103) bpm
   BP: 139/76(96) {94/64(75) - 148/92(113)} mmHg
   RR: 15 (9 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,182 mL
                                                                    399 mL
   PO:
             TF:
   IVF:
                                                                    902 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    420 mL
   Urine:
                                                                    265 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,967 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 17 cmH2O
   Compliance: 121.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.21/80.[**Numeric Identifier 500**]/94.[**Numeric Identifier 433**]/33/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Gen: nad
   Pulm: very poor air movement, prolonged exp phase.  No wheezing
   Cv: hrrr, no m/r/g
   Abd: s/nt/nd/nabs
   Extr: no c/c/e
   Labs / Radiology
   234 K/uL
   13.1 g/dL
   153 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.9 mEq/L
   25 mg/dL
   102 mEq/L
   139 mEq/L
   37.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2132-2-6**]  10:58 AM
                             [**2132-2-6**]  12:35 PM
                             [**2132-2-6**]  03:33 PM
                             [**2132-2-6**]  03:50 PM
                             [**2132-2-6**]  06:38 PM
                             [**2132-2-6**]  08:59 PM
                             [**2132-2-6**]  10:58 PM
                             [**2132-2-7**]  02:34 AM
                             [**2132-2-7**]  05:46 AM
                             [**2132-2-7**]  06:07 AM
   WBC
   10.3
   Hct
   36.8
   37.5
   Plt
   234
   Cr
   1.0
   TropT
   0.04
   TCO2
   30
   32
   34
   33
   33
   32
   32
   34
   Glucose
   153
   Other labs: PT / PTT / INR:11.9/23.0/1.0, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Ca++:8.1 mg/dL, Mg++:3.2
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   64 y/o gentleman with hypertension and hypercholesterolemia presents
   with acutre respiratory failure and s/p intubation.
   .
   # Respiratory Failure:  Asthma exacerbation.  Most likely precipitant
   is URI vs CAP.  Sputum viral culture negative.  GNRs in sputum awaiting
   speciation.  Requiring MDIs 10 puffs q 2 hrs.
   - cont nebs for goal airway resistance < 10
   - PCV ventilation with sedation to avoid breath stacking
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking
   - cont solumedrol 125 mg IV q8h
   - cont singulair 10 mg daily
   - already received magnesium and magnesium > 3.0
   - follow up cultures
   - cont coverage for CAP with CTX and azithromycin, consider coverage
   for GNRs or aspiration pending sputum or clinical change
   - advance ETT 2 cm per CXR
   .
   # NSTEMI:  Demand ischemia per cards fellow but was not officially
   consulted.  CEs negative.  Heparin gtt discontinued
   - cycle CE
   - cont ASA, statin
   .
   # Coffee ground NGT output:  has subsequently cleared
   -  most likely due to difficult intubation, and ingested blood
   -  PPI
   .
   # hypocalcemia:
   - check albumin
   - replete if still hypocalcemic when corrected for albumin
   .
   # FEN: tube feeds per nutrition recs (appreciate nutrition recs),
   replete lytes prn
   .
   # PPx: sc heparin, PPI, VAP bundle
   .
   # Access: 2 PIV, A-line
   .
   # Code: Full Code
   .
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-2-6**] 04:32 AM
   20 Gauge - [**2132-2-6**] 04:32 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-02-07 10:02:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   RR decreased to 16, pH down to 7.21. Ppl 20, PIPs 30s. Sputum GNR.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-2-7**] 01:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-7**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-7**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 100 (71 - 105) bpm
   BP: 117/73(89) {94/64(75) - 148/92(113)} mmHg
   RR: 19 (9 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,182 mL
                                                                    585 mL
   PO:
             TF:
   IVF:
                                                                    902 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    470 mL
   Urine:
                                                                    265 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,967 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 18 cmH2O
   Compliance: 95.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.21/78.[**Numeric Identifier 274**]/96.[**Numeric Identifier 274**]/33/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   diffusely, Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   13.1 g/dL
   234 K/uL
   153 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.9 mEq/L
   25 mg/dL
   102 mEq/L
   139 mEq/L
   37.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2132-2-6**]  12:35 PM
                             [**2132-2-6**]  03:33 PM
                             [**2132-2-6**]  03:50 PM
                             [**2132-2-6**]  06:38 PM
                             [**2132-2-6**]  08:59 PM
                             [**2132-2-6**]  10:58 PM
                             [**2132-2-7**]  02:34 AM
                             [**2132-2-7**]  05:46 AM
                             [**2132-2-7**]  06:07 AM
                             [**2132-2-7**]  08:34 AM
   WBC
   10.3
   Hct
   36.8
   37.5
   Plt
   234
   Cr
   1.0
   TropT
   0.04
   TCO2
   32
   34
   33
   33
   32
   32
   34
   33
   Glucose
   153
   Other labs: PT / PTT / INR:11.9/23.0/1.0, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Ca++:8.1 mg/dL, Mg++:3.2
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Plan:
   1. Severe asthma attack
   -q2h albuterol, q6h atrovent
   -cont. solumedrol 125 mg q8h
   -given Mg
   -ctx and azithromycin
   -PCV 30/10 FiO2 0.5
   -goal pH 7.2-7.3
   -advance ETT 2 cm
   -check resistance
   -fentanyl 200 and propofol 60
   2. CAP: GNR, cx NG yet
   -ctx and azithro
   3. Slight elev CE: Likely demand
   -cont. ASA 81 mg
   -CE tranding down
   -off heparin gtt
   4. FEN: Start TF
   -bowel reg
   -check albumin, may need Ca
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2132-2-6**] 04:32 AM
   20 Gauge - [**2132-2-6**] 04:32 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have reviewed and agree with the assessment and plan as described
   above by the fellow with the following modifications and emphasis:
    64 year male with history of asthma presented to OSH with SOB and
   ultimately found to be in respiratory failure requiring intubation.
   Was difficult intubation and also having difficulty ventilating in ED
   and therefore paralyzed pt. with some improvement and transferred to
   the ICU.
   On exam: 37.6  P 100   BP 117/73   19    96%
   Gen: patient is intubated/sedated but off paralytics at this time.
   Lung: He has very poor air movement in the lungs bilaterally with faint
   wheeze
   Heart: S1 S2
   Abd: soft, NT ND
   Ext: no edema
   ABG: 7.26  pCO2= 81    bicarb = 33
   A:
   1)       Acute Respiratory Failure Secondary to severe asthma
   exacerbation/pneumonia
   - slight improvement in resistance and slight improvement of air
   movement on exam
   2)       Asthma Exacerbation
   3)       Pneumonia
   Plan:
   1)       Continue to decrease rate and increase expiratory time with
   allowance for permissive hypercapnea
   2)       Treat for CAP (Ceftriaxone/azithromycin)
   3)       Continue albuterol (q 1hour), atrovent, solumedrol; keep Mg
   levels up
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2132-2-8**] 10:03 PM ------

2132-02-08 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started tube feeds
   - Sputum w/ Pseudomonas moderate growth. Started Levoflox & Zosyn.
   TX/azithro stopped.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-2-7**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-8**] 01:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-8**] 04:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-8**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.8
C (96.5
   HR: 67 (67 - 104) bpm
   BP: 104/60(76) {98/59(73) - 118/73(125)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,660 mL
                                                                    788 mL
   PO:
             TF:
                                                                    280 mL
                                                                    288 mL
   IVF:
                                                                  1,260 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    955 mL
   Urine:
                                                                  1,530 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Unstable Airway
   PIP: 32 cmH2O
   Plateau: 19 cmH2O
   Compliance: 69.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.24/82.[**Numeric Identifier **]/95.[**Numeric Identifier **]/34/4
   Ve: 7.8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   11.8 g/dL
   179 mg/dL
   1.0 mg/dL
   34 mEq/L
   5.0 mEq/L
   33 mg/dL
   104 mEq/L
   143 mEq/L
   35.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2132-2-6**]  10:58 PM
                             [**2132-2-7**]  02:34 AM
                             [**2132-2-7**]  05:46 AM
                             [**2132-2-7**]  06:07 AM
                             [**2132-2-7**]  08:34 AM
                             [**2132-2-7**]  10:35 AM
                             [**2132-2-7**]  07:04 PM
                             [**2132-2-7**]  10:57 PM
                             [**2132-2-8**]  04:10 AM
                             [**2132-2-8**]  04:46 AM
   WBC
   10.3
   9.5
   Hct
   37.5
   35.1
   Plt
   234
   200
   Cr
   1.0
   1.0
   TCO2
   32
   32
   34
   33
   33
   35
   37
   37
   Glucose
   153
   179
   Other labs: PT / PTT / INR:11.4/24.0/0.9, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   Ca++:8.3 mg/dL, Mg++:3.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   64 y/o gentleman with hypertension and hypercholesterolemia presents
   with acutre respiratory failure and s/p intubation.
   .
   # Respiratory Failure:  Asthma exacerbation.  Most likely precipitant
   is URI vs CAP.  Sputum viral culture negative.  GNRs in sputum awaiting
   speciation.  Requiring MDIs 10 puffs q 2 hrs.
   - cont nebs for goal airway resistance < 10
   - PCV ventilation with sedation to avoid breath stacking
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking
   - cont solumedrol 125 mg IV q8h
   - cont singulair 10 mg daily
   - already received magnesium and magnesium > 3.0
   - follow up cultures
   - cont coverage for CAP with CTX and azithromycin, consider coverage
   for GNRs or aspiration pending sputum or clinical change
   - advance ETT 2 cm per CXR
   .
   # NSTEMI:  Demand ischemia per cards fellow but was not officially
   consulted.  CEs negative.  Heparin gtt discontinued
   - cycle CE
   - cont ASA, statin
   .
   # Coffee ground NGT output:  has subsequently cleared
   -  most likely due to difficult intubation, and ingested blood
   -  PPI
   .
   # hypocalcemia:
   - check albumin
   - replete if still hypocalcemic when corrected for albumin
   .
   # FEN: tube feeds per nutrition recs (appreciate nutrition recs),
   replete lytes prn
   .
   # PPx: sc heparin, PPI, VAP bundle
   .
   # Access: 2 PIV, A-line
   .
   # Code: Full Code
   .
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-8**] 06:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-2-6**] 04:32 AM
   20 Gauge - [**2132-2-6**] 04:32 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-02-08 11:21:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   GNR in sputum returned as pseudomonas, abx changed to levo/zosyn.
   Increased PCV to 32/10 for inc CO2 overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-2-7**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-8**] 01:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-8**] 04:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-8**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 69 (67 - 104) bpm
   BP: 106/61(77) {98/59(73) - 116/70(125)} mmHg
   RR: 16 (16 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,661 mL
                                                                  1,315 mL
   PO:
             TF:
                                                                    280 mL
                                                                    453 mL
   IVF:
                                                                  1,261 mL
                                                                    692 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                  1,315 mL
   Urine:
                                                                  1,530 mL
                                                                  1,315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 514 (514 - 514) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Unstable Airway
   PIP: 32 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.24/82.[**Numeric Identifier **]/95.[**Numeric Identifier **]/34/4
   Ve: 7.8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   200 K/uL
   179 mg/dL
   1.0 mg/dL
   34 mEq/L
   5.0 mEq/L
   33 mg/dL
   104 mEq/L
   143 mEq/L
   35.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2132-2-6**]  10:58 PM
                             [**2132-2-7**]  02:34 AM
                             [**2132-2-7**]  05:46 AM
                             [**2132-2-7**]  06:07 AM
                             [**2132-2-7**]  08:34 AM
                             [**2132-2-7**]  10:35 AM
                             [**2132-2-7**]  07:04 PM
                             [**2132-2-7**]  10:57 PM
                             [**2132-2-8**]  04:10 AM
                             [**2132-2-8**]  04:46 AM
   WBC
   10.3
   9.5
   Hct
   37.5
   35.1
   Plt
   234
   200
   Cr
   1.0
   1.0
   TCO2
   32
   32
   34
   33
   33
   35
   37
   37
   Glucose
   153
   179
   Other labs: PT / PTT / INR:11.4/24.0/0.9, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   Ca++:8.3 mg/dL, Mg++:3.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   1. Severe asthma/Pseudomonal PNA vs. CAP
   Continue zosyn/ciproflox
   -albuterol MDI q1-2h
   -goal pH 7.1-7.3, pCO2 <90
   -solumedrol 80mg q8h
   2. CE bump:
   cont. ASA 81 mg
   3. FEN: Appears dry
   -start maintenance IVF at 100/h
   -TF at goal
   -PICC consult for abx
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-8**] 06:00 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-2-6**] 04:32 AM
   20 Gauge - [**2132-2-6**] 04:32 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Physical Exam:
   Gen: sedated, intubated
   HEENT: mm dry
   CV: RRR no m/r/g
   Pulm: Improved air movement, no wheezes, no crackles
   Abd: s/nt/nd +BS
   Ext: trace LE edema, L foot slightly cooler than R, good pulses
   Skin: No rashes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1643**] [**Last Name (NamePattern1) 1068**], MD
   on:[**2132-2-8**] 01:32 PM ------
   I have reviewed and agree with the assessment and plan as described
   above by the fellow with the following modifications and emphasis:
    64 year male with history of asthma presented to OSH with SOB and
   ultimately found to be in respiratory failure requiring intubation.
   Was difficult intubation and also having difficulty ventilating in ED
   and therefore paralyzed pt. with some improvement and transferred to
   the ICU.  In ICU has had severe bronchospasm a
   On exam: 37.4   P: 78   116/70   16  94%
   Gen: patient is intubated/sedated but off paralytics at this time.
   Lung: He has very poor air movement in the lungs bilaterally with faint
   wheeze
   Heart: S1 S2
   Abd: soft, NT ND
   Ext: no edema
   ABG: 7.21  pCO2= 81    bicarb = 32
   CXR: RLL infiltrate; interstitial pattern
   Sputum: Pseudomonas
   A:
   1)       Acute Respiratory Failure Secondary to severe asthma
   exacerbation/pneumonia
   2)       Asthma Exacerbation
   3)       Pneumonia (Pseudomonas)
   Plan:
   1)       Continue to slowly decrease rate and increase expiratory time
   with allowance for permissive hypercapnea
   2)       Change antibiotic coverage to cover pseudomonas (Zosyn) and
   will keep atypicals (levoquin)
   3)       Continue pressure control ventilation and decrease Pi as
   resistance improves
   4)
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2132-2-8**] 10:40 PM ------

2132-02-09 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: status asthmaticus
   24 Hour Events:
   - Checked Triglyceride level while on steroids and propofol, TG 157
   - Decreased solumedrol to 80 tid
   - PICC placed, however ? coiling in brachiocephalic [**Last Name (LF) 4244**], [**First Name3 (LF) **] need to
   redo after AM CXR
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-2-7**] 01:00 AM
   Levofloxacin - [**2132-2-9**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-9**] 04:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-9**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.8
   HR: 67 (66 - 74) bpm
   BP: 117/66(85) {94/58(73) - 139/86(106)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,679 mL
                                                                  1,044 mL
   PO:
             TF:
                                                                  1,170 mL
                                                                    413 mL
   IVF:
                                                                  2,099 mL
                                                                    571 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    590 mL
   Urine:
                                                                  2,600 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,079 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 514 (514 - 514) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.28/73.[**Numeric Identifier **]/73.[**Numeric Identifier **]/36/4
   Ve: 6.4 L/min
   PaO2 / FiO2: 183
   Physical Examination
   gen: intubated, sedation
   pulm: poor air movement, prolonged exp phase, no wheezes
   cv: hrrr, no m/r/g
   abd: s/nt/nd/nabs
   extr: 1+ LE edema bilaterally
   neuro: aox4
   Labs / Radiology
   200 K/uL
   11.8 g/dL
   134 mg/dL
   0.8 mg/dL
   36 mEq/L
   5.7 mEq/L
   35 mg/dL
   106 mEq/L
   143 mEq/L
   35.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2132-2-7**]  08:34 AM
                             [**2132-2-7**]  10:35 AM
                             [**2132-2-7**]  07:04 PM
                             [**2132-2-7**]  10:57 PM
                             [**2132-2-8**]  04:10 AM
                             [**2132-2-8**]  04:46 AM
                             [**2132-2-8**]  01:07 PM
                             [**2132-2-8**]  09:12 PM
                             [**2132-2-9**]  01:17 AM
                             [**2132-2-9**]  04:24 AM
   WBC
   9.5
   Hct
   35.1
   Plt
   200
   Cr
   1.0
   0.8
   TCO2
   33
   33
   35
   37
   37
   36
   34
   36
   Glucose
   179
   134
   Other labs: PT / PTT / INR:11.4/24.0/0.9, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   Ca++:8.8 mg/dL, Mg++:2.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   64 y/o gentleman with hypertension and hypercholesterolemia presents
   with acutre respiratory failure and s/p intubation.
   .
   # Respiratory Failure:  Asthma exacerbation.  Most likely precipitant
   is CAP.  Sputum viral culture negative.  GNRs in sputum speciated to
   pseudomonas, pansensitive.  Requiring MDIs 10 puffs q 2 hrs.
   - frequent mdi
s for goal airway resistance < 10
   - add po Albuterol for concern that mdi
s are not reaching distal
   airways effectively
   - PCV ventilation with sedation to avoid breath stacking, propofol
   preferential to fentanyl
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - cont solumedrol 80 mg IV q8h
   - cont singulair 10 mg daily
   - already received magnesium and magnesium > 3.0
   - cover psudomonas with zosyn
   - cont levo for atypical coverage
   - could consider aminophylline, though he had demand ischemia upon
   presentation
   .
   # Hyperkalemia: no EKG changes. Received kayexalate
   - PM lytes
   - kayexalate prn
   - Albuterol as above
   .
   # Demand ischemia:  CEs trended down.  Heparin gtt discontinued
   - cont ASA, statin
   .
   # Coffee ground NGT output:  has subsequently cleared
   -  most likely due to difficult intubation, and ingested blood
   -  PPI
   .
   # hypocalcemia:
   - resolved
   .
   # FEN: tube feeds per nutrition recs (appreciate nutrition recs),
   replete lytes prn
   .
   # PPx: sc heparin, PPI, VAP bundle
   .
   # Access: 2 PIV, A-line
   .
   # Code: Full Code
   .
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-9**] 12:48 AM 55 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-2-6**] 04:32 AM
   20 Gauge - [**2132-2-6**] 04:32 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-02-10 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC line coiled, to be replaced on Monday
   - hyperkalemic, received kayexalate
   - required increased sedation to minimize overbreathing and breath
   stacking from dysynchrony.  O2 sat consistently ~ 90%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-9**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-10**] 04:32 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2132-2-9**] 09:37 PM
   Heparin Sodium (Prophylaxis) - [**2132-2-10**] 07:55 AM
   Lansoprazole (Prevacid) - [**2132-2-10**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: Wheeze
   Genitourinary: Foley
   Flowsheet Data as of  [**2132-2-10**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 70 (69 - 92) bpm
   BP: 124/66(87) {106/60(77) - 188/105(138)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,227 mL
                                                                  1,551 mL
   PO:
             TF:
                                                                  1,324 mL
                                                                    409 mL
   IVF:
                                                                  1,843 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                  1,025 mL
   Urine:
                                                                  2,290 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    937 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 92%
   ABG: 7.37/72/77/42/12
   Ve: 7.5 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , Absent : )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   203 K/uL
   10.7 g/dL
   136 mg/dL
   0.9 mg/dL
   42 mEq/L
   4.8 mEq/L
   44 mg/dL
   107 mEq/L
   151 mEq/L
   31.3 %
   8.9 K/uL
        [image002.jpg]
                             [**2132-2-8**]  04:10 AM
                             [**2132-2-8**]  04:46 AM
                             [**2132-2-8**]  01:07 PM
                             [**2132-2-8**]  09:12 PM
                             [**2132-2-9**]  01:17 AM
                             [**2132-2-9**]  04:24 AM
                             [**2132-2-9**]  03:12 PM
                             [**2132-2-9**]  03:23 PM
                             [**2132-2-10**]  03:44 AM
                             [**2132-2-10**]  03:55 AM
   WBC
   9.5
   8.9
   Hct
   35.1
   31.3
   Plt
   200
   203
   Cr
   1.0
   0.8
   0.9
   0.9
   TCO2
   37
   36
   34
   36
   37
   45
   43
   Glucose
   179
   134
   148
   136
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation, now mechanical ventilation day #5.  Rapid viral screen
   negative at time of presentation.  Sputum culture positive for
   pan-sensitive pseudomonas.    He initially ws treated empirically with
   Ceftriaxone/Axithro as coverage for community-acquired pneumonia, but
   changed to Levo/Zosyn once pseudomonas was speciated.  He is currently
   on Levofloxacin & Zosyn, day # 4.   Ventilatory status has remained
   stable, but failed to improve, raising concerns for alternate causes of
   this asthma exacerbation.
   - Mini-BAL today, with gram stain/culture, PCP smear, and fungal
   culture
   - check LDH in consideration of PCP
   [**Name Initial (PRE) **] Continue ipratropium q4 hours and albuterol 10 puffs q 2 hours for
   goal airway resistance < 10
   - Continue PO albuterol to ensure bronchodilatory effects on distal
   airways
   - PCV ventilation with sedation to avoid breath stacking, propofol
   preferential to fentanyl
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - cont solumedrol 80 mg IV q8h with plan to taper once clinically
   improving
   - cont singulair 10 mg daily
   - goal magnesium > 3.0
   # Demand ischemia:  Troponin elevated at time of admission, but CK
   flat and troponins trended down.
   - Continue ASA 81 mg and statin.
   # FEN:  Continue tube feeds per nutrition recs.
   - Maintain Mg>3
   # PPx: SC heparin, PPI, VAP bundle.
   # Access: 2 PIV, A-line
   # Code: Full Code
   .
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-10**] 04:12 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-2-6**] 04:31 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-9**] 12:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Code status: Full code
   Disposition:ICU

2132-02-11 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress
   24 Hour Events:
   [**2-10**]:
   - Started free water boluses via NGT and D5W x 2 liters for
   hypernatremia
   - Vent requirements stable; no improvement
   - [**First Name4 (NamePattern1) 4652**] [**Known firstname **] spoke to his Pulmonologist at [**Hospital1 966**]; he will be sending
   records to [**Doctor First Name 1643**]
   - Mini-BAL performed -> gram stain negative; sent fungal culture & PCP
   smear
   [**Name Initial (PRE) **] LDH checked: 195
   - IgE, beta-glucan, and galactomannan sent
   - K up to 5.4 in PM -> gave Kayexalate
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-9**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-11**] 04:14 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2132-2-10**] 07:56 AM
   Heparin Sodium (Prophylaxis) - [**2132-2-11**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2132-2-11**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 77 (69 - 82) bpm
   BP: 136/68(91) {110/61(79) - 136/73(94)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,861 mL
                                                                  2,664 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                     68 mL
   IVF:
                                                                  2,574 mL
                                                                  2,196 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    875 mL
   Urine:
                                                                  2,780 mL
                                                                    775 mL
   NG:
   Stool:
                                                                    350 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,731 mL
                                                                  1,789 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 95%
   ABG: 7.36/76.[**Numeric Identifier 433**]/82.[**Numeric Identifier **]/43/12
   Ve: 7.1 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   adequate air movement, scattered exp wheeze
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: None, Left: None
   Skin:  Not assessed, multiple eccymoses upper extremity b/l
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   228 K/uL
   10.5 g/dL
   182 mg/dL
   0.8 mg/dL
   43 mEq/L
   4.6 mEq/L
   37 mg/dL
   103 mEq/L
   148 mEq/L
   30.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2132-2-9**]  04:24 AM
                             [**2132-2-9**]  03:12 PM
                             [**2132-2-9**]  03:23 PM
                             [**2132-2-10**]  03:44 AM
                             [**2132-2-10**]  03:55 AM
                             [**2132-2-10**]  11:20 AM
                             [**2132-2-10**]  01:27 PM
                             [**2132-2-10**]  07:01 PM
                             [**2132-2-11**]  03:29 AM
                             [**2132-2-11**]  03:42 AM
   WBC
   8.9
   9.7
   Hct
   31.3
   30.4
   Plt
   203
   228
   Cr
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   37
   45
   43
   43
   43
   45
   Glucose
   134
   148
   136
   140
   182
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.3 mg/dL, Mg++:2.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation, now mechanical ventilation day #5.  Rapid viral screen
   negative at time of presentation.  Sputum culture positive for
   pan-sensitive pseudomonas.    He initially was treated empirically with
   Ceftriaxone/Axithro as coverage for community-acquired pneumonia, but
   changed to Levo/Zosyn once pseudomonas was speciated.  He is currently
   on Levofloxacin & Zosyn, day # 5.   Ventilatory status has remained
   stable, but failed to improve, raising concerns for alternate causes of
   this asthma exacerbation.  Outpt records indicate hx of steroid
   dependent asthma x years. Not on PCP [**Name Initial (PRE) 1694**]. Mini-BAL [**2-10**] revealed PMNs,
   no organisms seen. LDH normal, so may not be PCP.
   [**Name Initial (NameIs) **] [**Name11 (NameIs) **] [**Name12 (NameIs) 4653**] culture, with gram stain/culture, PCP smear, and
   fungal culture
   - Continue ipratropium q4 hours and albuterol 10 puffs q 2 hours for
   goal airway resistance < 10
   - Continue PO albuterol to ensure bronchodilatory effects on distal
   airways
   - PCV ventilation with sedation and permissive hypercapnia to avoid
   breath stacking, propofol preferential to fentanyl, will do trial of PS
   now and check ABG
   - Try RR 12 if tolerates
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - cont solumedrol 80 mg IV q8h with plan to taper once clinically
   improving
   - cont singulair 10 mg daily
   - goal magnesium > 3.0
   - consider Pulmonary c/s if no improvement in the next 24-48 hours
   # Demand ischemia:  Troponin elevated at time of admission, but CK
   flat and troponins trended down.
   - Continue ASA 81 mg and statin.
   # HyperNa: Improved with free water flushes
   - Check lytes this afternoon, adjust free water as indicated
   # FEN:  Continue tube feeds per nutrition recs.
   - Maintain Mg>3; will replete this AM
   # PPx: SC heparin, PPI, VAP bundle.
   # Access: 2 PIV, A-line
   # Code: Full Code
   .
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-2-6**] 04:31 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-9**] 12:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2132-02-11 12:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o m with steroid dependent asthma p/w severe asthma attack and
   diffuse tree-in-[**Male First Name (un) **] pattern on CT.
   24 Hour Events:
   Became more hypernatremic, started FW boluses. PCP and [**Name9 (PRE) 4662**] are neg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-9**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-11**] 04:14 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-11**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-11**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 82) bpm
   BP: 135/71(91) {113/61(79) - 136/73(94)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,861 mL
                                                                  3,266 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                     68 mL
   IVF:
                                                                  2,574 mL
                                                                  2,797 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                  1,385 mL
   Urine:
                                                                  2,780 mL
                                                                  1,285 mL
   NG:
   Stool:
                                                                    350 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,731 mL
                                                                  1,881 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.36/76.[**Numeric Identifier 433**]/82.[**Numeric Identifier **]/43/12
   Ve: 7.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : R lower, Diminished:
   diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   228 K/uL
   182 mg/dL
   0.8 mg/dL
   43 mEq/L
   4.6 mEq/L
   37 mg/dL
   103 mEq/L
   148 mEq/L
   30.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2132-2-9**]  04:24 AM
                             [**2132-2-9**]  03:12 PM
                             [**2132-2-9**]  03:23 PM
                             [**2132-2-10**]  03:44 AM
                             [**2132-2-10**]  03:55 AM
                             [**2132-2-10**]  11:20 AM
                             [**2132-2-10**]  01:27 PM
                             [**2132-2-10**]  07:01 PM
                             [**2132-2-11**]  03:29 AM
                             [**2132-2-11**]  03:42 AM
   WBC
   8.9
   9.7
   Hct
   31.3
   30.4
   Plt
   203
   228
   Cr
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   37
   45
   43
   43
   43
   45
   Glucose
   134
   148
   136
   140
   182
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.3 mg/dL, Mg++:2.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   1. Resp failure: [**1-7**] atypical PNA vs Pseudomonas superimposed on severe
   asthma
   -improvement CXR
   -complete course of zosyn and levofloxacin
   -lighten sedation and try PS
   -3 days po albuterol
   -goal Mg >3
   2. Demand ischemia:
   -cont. ASA and statin
   3. Hypernatremia: Check Na now, replete FW as needed
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2132-2-6**] 04:31 AM
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-9**] 12:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have reviewed and agree with the assessment and plan as described
   above by the fellow with the following modifications and emphasis:
    64 year male with history of asthma presented to OSH with SOB and
   ultimately found to be in respiratory failure requiring intubation.
   Was difficult intubation and also having difficulty ventilating in ED
   and therefore paralyzed pt. with some improvement and transferred to
   the ICU.
   Has not had much improvement over the weekend and remains on pressure
   control ventilation with poor resistance.
   On exam: 37.3   P: 71   135/71   16  94%
   Gen: patient is intubated/sedated but off paralytics at this time.
   Lung: He has very poor air movement in the lungs bilaterally with faint
   wheeze
   Heart: S1 S2
   Abd: soft, NT ND
   Ext: no edema
   ABG: 7.4  pCO2= 64    bicarb = 42
   CXR: improving
   Sputum: Pseudomonas
   A:
   1)       Acute Respiratory Failure Secondary to severe asthma
   exacerbation/pneumonia
   2)       Asthma Exacerbation
   3)       Pneumonia (Pseudomonas)
   Plan:
   1)       Will attempt pressure support trial
   2)       Change to volume control after SBT
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2132-2-11**] 06:54 PM ------

2132-02-12 07:17:00 Physician Resident Progress Note
TITLE: Daily Progress Note
   Chief Complaint: Status asthmaticus
   24 Hour Events:
   [**2-11**]:
   - Continued free water with improvement of 148 to 146
   - PS trial with weaning of sedation was successful initially with
   patient taking increased Vt to 800cc; patient then dropped to 500cc,
   with increased RR.  ABG at that pH 7.40, pCO2 69, pO2 96, HCO3 44.  Was
   changed back to volume control with Vt 550, then Vt 600
   - Magnesium repleted, goal > 3 for smooth muscle relaxation
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-11**] 04:14 AM
   Levofloxacin - [**2132-2-12**] 12:21 AM
   Piperacillin - [**2132-2-12**] 03:36 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-11**] 08:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Flowsheet Data as of  [**2132-2-12**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 81 (56 - 90) bpm
   BP: 121/65(84) {116/59(78) - 235/112(156)} mmHg
   RR: 14 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  6,350 mL
                                                                  1,589 mL
   PO:
             TF:
                                                                    388 mL
                                                                    359 mL
   IVF:
                                                                  5,252 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    815 mL
   Urine:
                                                                  2,150 mL
                                                                    815 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  3,100 mL
                                                                    775 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 866 (866 - 866) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.39/69/90.[**Numeric Identifier 433**]/42/12
   Ve: 6.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   235 K/uL
   10.6 g/dL
   123 mg/dL
   0.7 mg/dL
   42 mEq/L
   4.9 mEq/L
   32 mg/dL
   102 mEq/L
   146 mEq/L
   30.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2132-2-10**]  07:01 PM
                             [**2132-2-11**]  03:29 AM
                             [**2132-2-11**]  03:42 AM
                             [**2132-2-11**]  01:11 PM
                             [**2132-2-11**]  01:15 PM
                             [**2132-2-11**]  03:27 PM
                             [**2132-2-11**]  06:06 PM
                             [**2132-2-12**]  03:19 AM
                             [**2132-2-12**]  03:40 AM
                             [**2132-2-12**]  06:14 AM
   WBC
   9.7
   10.7
   Hct
   30.4
   30.7
   Plt
   228
   235
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   45
   44
   42
   42
   44
   43
   Glucose
   140
   182
   113
   123
   123
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation, now mechanical ventilation day #6.  Rapid viral screen
   negative at time of presentation.  Sputum culture positive for
   pan-sensitive pseudomonas.    He initially was treated empirically with
   Ceftriaxone/Axithro as coverage for community-acquired pneumonia, but
   changed to Levo/Zosyn once pseudomonas was speciated.  He is currently
   on Levofloxacin & Zosyn, day # 6.   Ventilatory status has remained
   stable, but failed to improve, raising concerns for alternate causes of
   this asthma exacerbation.  Outpt records indicate hx of steroid
   dependent asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   - Follow-up Mini-BAL culture
   - Continue ipratropium q4 hours and albuterol 10 puffs q 2 hours for
   goal airway resistance < 10
   - Continue PO albuterol to ensure bronchodilatory effects on distal
   airways
   - Pressure control ventilation with sedation and permissive hypercapnia
   to avoid breath stacking, propofol preferential to fentanyl
   - Pressure support trial today
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - cont solumedrol 80 mg IV q8h with plan to taper once clinically
   improving
   - cont singulair 10 mg daily
   - goal magnesium > 3.0
   - goal rate of 12 with larger tidal volumes
   - continue levo/zosyn, day 6 of 14
   - d/c ASA
   - add theophylline
   - re-scan chest to evaluate lung fields
   # Demand ischemia:  Troponin elevated at time of admission, but CK
   flat and troponins trended down.  No longer trending.
   -          Continue statin.
   -          d/c ASA given prolonged status asthmaticus
   # HyperNa: Improved with free water flushes
   -  Adjust free water as indicated; will preferentially put free water
   in TFs rather than giving additional fluids
   # FEN:  Continue tube feeds per nutrition recs.
   - Maintain Mg>3; will replete this AM
   .
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-12**] 03:10 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-9**] 12:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:  ICU

2132-02-12 09:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PS trial with lower sedation, initially looked good with TV 800-900 and
   good sats, then RR went up to 24 and TV 500 with large WOB, resedated
   and placed back on A/C.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-11**] 04:14 AM
   Levofloxacin - [**2132-2-12**] 12:21 AM
   Piperacillin - [**2132-2-12**] 03:36 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-11**] 08:42 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-12**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 77 (56 - 90) bpm
   BP: 125/66(85) {116/59(78) - 235/112(156)} mmHg
   RR: 18 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  6,350 mL
                                                                  2,267 mL
   PO:
             TF:
                                                                    388 mL
                                                                    463 mL
   IVF:
                                                                  5,252 mL
                                                                    844 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    995 mL
   Urine:
                                                                  2,150 mL
                                                                    995 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  3,100 mL
                                                                  1,272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 866 (866 - 866) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.39/69/90.[**Numeric Identifier 433**]/42/12
   Ve: 5.7 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen: sedated
   HEENT: mmm, intubated
   CV: RRR no m/r/g
   Pulm: Diffuse exp wheeze, prolonged exp phase
   Abd: s/nt/nd +BS
   Ext: no edema
   Labs / Radiology
   10.6 g/dL
   235 K/uL
   123 mg/dL
   0.7 mg/dL
   42 mEq/L
   4.9 mEq/L
   32 mg/dL
   102 mEq/L
   146 mEq/L
   30.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2132-2-10**]  07:01 PM
                             [**2132-2-11**]  03:29 AM
                             [**2132-2-11**]  03:42 AM
                             [**2132-2-11**]  01:11 PM
                             [**2132-2-11**]  01:15 PM
                             [**2132-2-11**]  03:27 PM
                             [**2132-2-11**]  06:06 PM
                             [**2132-2-12**]  03:19 AM
                             [**2132-2-12**]  03:40 AM
                             [**2132-2-12**]  06:14 AM
   WBC
   9.7
   10.7
   Hct
   30.4
   30.7
   Plt
   228
   235
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   45
   44
   42
   42
   44
   43
   Glucose
   140
   182
   113
   123
   123
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Lactic Acid:1.0 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   1. severe asthma and atypical PNA:
   -solumedrol 80 mg IV tid
   -singulair
   -keep RR at 12, then check resistance
   -f/u miniBAL GNRs
   -cont. albuterol q2h
   -d/c ASA
   -try theophylline
   -check TG level
   -Chest CT to eval tree-in-[**Male First Name (un) **] opacities
   2. Hypernatremia:
   -cont. FW
   3. FEN: Cont. TF
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-12**] 03:10 AM 50 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-9**] 12:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have reviewed and agree with the assessment and plan as described
   above by the fellow with the following modifications and emphasis:
    64 year male with history of asthma presented to OSH with SOB and
   ultimately found to be in respiratory failure requiring intubation.
   Was difficult intubation and also having difficulty ventilating in ED
   and therefore paralyzed pt. with some improvement and transferred to
   the ICU.
   Now on volume control ventilation
   On exam: 37.2   P: 71   BP: 126/71  RR: 18    SaO2: 95%
   Gen: patient is intubated/sedated but off paralytics at this time.
   Lung: He has very poor air movement in the lungs bilaterally with faint
   wheeze
   Heart: S1 S2
   Abd: soft, NT ND
   Ext: no edema
   ABG: 7.4  pCO2= 64    bicarb = 42
   CXR: improving
   Sputum: Pseudomonas
   A:
   1)       Acute Respiratory Failure Secondary to severe asthma
   exacerbation/pneumonia
   2)       Asthma Exacerbation
   3)       Pneumonia (Pseudomonas)
   Plan:
   1)       Repeat Chest CT scan to evaluate if any worsening
   2)       Change to PS today
   3)       Continue albuterol/steroids
   4)       Continue Zosyn/levaquin
   5)       Add theophylline, discontinue aspirin
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2132-2-12**] 06:33 PM ------

2132-02-13 07:40:00 Physician Resident Progress Note
Chief Complaint: Status Asthmaticus
   24 Hour Events:
   - CT Chest: preliminary read; significant interval improvement in
   diffuse centrilobular nodules and tree-in-[**Male First Name (un) **] opacities in the upper
   lungs as well as in the lower lobes. Still present bibasal atelectasis
   that has slightly increased in the interim. No pneumothorax. No
   pneumomediastinum.
   - Mini-BAL: +Pseudomonas, awaiting sensitivities
   - Goal even fluid balance; grossly positive
   - Tried to wean PEEP overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-11**] 04:14 AM
   Levofloxacin - [**2132-2-12**] 12:21 AM
   Piperacillin - [**2132-2-13**] 04:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Aminophylline - 0.4 mg/Kg/hour
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-13**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 78 (77 - 112) bpm
   BP: 134/70(91) {115/59(79) - 207/103(140)} mmHg
   RR: 11 (9 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  6,246 mL
                                                                  1,686 mL
   PO:
             TF:
                                                                    904 mL
                                                                    182 mL
   IVF:
                                                                  3,512 mL
                                                                    944 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                  1,410 mL
   Urine:
                                                                  3,165 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,081 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 418 (418 - 761) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 6 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: 7.34/81.[**Numeric Identifier **]/82.[**Numeric Identifier **]/40/13
   Ve: 4.6 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   229 K/uL
   10.9 g/dL
   114 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.9 mEq/L
   25 mg/dL
   98 mEq/L
   142 mEq/L
   32.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2132-2-11**]  01:15 PM
                             [**2132-2-11**]  03:27 PM
                             [**2132-2-11**]  06:06 PM
                             [**2132-2-12**]  03:19 AM
                             [**2132-2-12**]  03:40 AM
                             [**2132-2-12**]  06:14 AM
                             [**2132-2-12**]  09:24 AM
                             [**2132-2-12**]  12:35 PM
                             [**2132-2-13**]  03:51 AM
                             [**2132-2-13**]  05:29 AM
   WBC
   10.7
   12.6
   Hct
   30.7
   32.3
   Plt
   235
   229
   Cr
   0.7
   0.6
   TCO2
   44
   42
   42
   44
   43
   43
   39
   46
   Glucose
   123
   123
   114
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.8 g/dL, LDH:195 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Imaging: - CT Chest: preliminary read; significant interval improvement
   in diffuse centrilobular nodules and tree-in-[**Male First Name (un) **] opacities in the upper
   lungs as well as in the lower lobes. Still present bibasal atelectasis
   that has slightly increased in the interim. No pneumothorax. No
   pneumomediastinum.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation, now mechanical ventilation day #6.  Rapid viral screen
   negative at time of presentation.  Sputum culture positive for
   pan-sensitive pseudomonas.    He initially was treated empirically with
   Ceftriaxone/Axithro as coverage for community-acquired pneumonia, but
   changed to Levo/Zosyn once pseudomonas was speciated.  He is currently
   on Levofloxacin & Zosyn, day # 6.   Ventilatory status has remained
   stable, but failed to improve, raising concerns for alternate causes of
   this asthma exacerbation.  Outpt records indicate hx of steroid
   dependent asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   - Follow-up Mini-BAL culture
   - Continue ipratropium q4 hours and albuterol 10 puffs q 2 hours for
   goal airway resistance < 10
   - Continue PO albuterol to ensure bronchodilatory effects on distal
   airways
   - Pressure control ventilation with sedation and permissive hypercapnia
   to avoid breath stacking, propofol preferential to fentanyl
   - Pressure support trial today
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - cont solumedrol 80 mg IV q8h with plan to taper once clinically
   improving
   - cont singulair 10 mg daily
   - goal magnesium > 3.0
   - goal rate of 12 with larger tidal volumes
   - continue levo/zosyn, day 6 of 14
   - d/c ASA
   - add theophylline
   - re-scan chest to evaluate lung fields
   # Demand ischemia:  Troponin elevated at time of admission, but CK
   flat and troponins trended down.  No longer trending.
   -          Continue statin.
   -          d/c ASA given prolonged status asthmaticus
   # HyperNa: Improved with free water flushes
   -  Adjust free water as indicated; will preferentially put free water
   in TFs rather than giving additional fluids
   # FEN:  Continue tube feeds per nutrition recs.
   - Maintain Mg>3; will replete this AM
   .
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-12**] 03:10 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-9**] 12:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-12**] 02:23 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-02-13 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT chest looks improved. Continued on [**9-11**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-11**] 04:14 AM
   Levofloxacin - [**2132-2-12**] 12:21 AM
   Piperacillin - [**2132-2-13**] 04:00 AM
   Infusions:
   Aminophylline - 0.4 mg/Kg/hour
   Fentanyl - 150 mcg/hour
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-13**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 106 (77 - 112) bpm
   BP: 191/93(126) {115/59(79) - 207/103(140)} mmHg
   RR: 15 (9 - 16) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  6,246 mL
                                                                  2,111 mL
   PO:
             TF:
                                                                    904 mL
                                                                    242 mL
   IVF:
                                                                  3,512 mL
                                                                  1,249 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                  1,950 mL
   Urine:
                                                                  3,165 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,081 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 702 (418 - 761) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.34/81.[**Numeric Identifier **]/82.[**Numeric Identifier **]/40/13
   Ve: 7.5 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: diffusely, but improved from yesterday)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   229 K/uL
   114 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.9 mEq/L
   25 mg/dL
   98 mEq/L
   142 mEq/L
   32.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2132-2-11**]  01:15 PM
                             [**2132-2-11**]  03:27 PM
                             [**2132-2-11**]  06:06 PM
                             [**2132-2-12**]  03:19 AM
                             [**2132-2-12**]  03:40 AM
                             [**2132-2-12**]  06:14 AM
                             [**2132-2-12**]  09:24 AM
                             [**2132-2-12**]  12:35 PM
                             [**2132-2-13**]  03:51 AM
                             [**2132-2-13**]  05:29 AM
   WBC
   10.7
   12.6
   Hct
   30.7
   32.3
   Plt
   235
   229
   Cr
   0.7
   0.6
   TCO2
   44
   42
   42
   44
   43
   43
   39
   46
   Glucose
   123
   123
   114
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.8 g/dL, LDH:195 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Plan:
   1. Asthma attack, PNA:
   -change to po theophylline, change steroid to prednisone 60 mg daily
   -lasix gtt for goal 1.5 neg
   -cont. singulair and albuterol
   -cont. zosyn and levofloxacin
   2. htn:
   -restart cardizem
   3. FEN: On TF
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-12**] 02:23 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have reviewed and agree with the assessment and plan as described
   above by the fellow with the following modifications and emphasis:
    64 year male with history of asthma presented to OSH with SOB and
   ultimately found to be in respiratory failure requiring intubation.
   Was difficult intubation and also having difficulty ventilating in ED
   and therefore paralyzed pt. with some improvement and transferred to
   the ICU.
   Has been persistently difficult to wean and found that he has severe
   underlying pulmonary disease
   On exam: 37.2   P: 106   BP: 191/93  RR: 12    SaO2: 95%
   Gen: patient is intubated/sedated
   Lung: CTA bilat but decreased expiratory noise
   Heart: S1 S2
   Abd: soft, NT ND
   Ext: no edema
   ABG: 7.4  pCO2= 81    bicarb = 42
   CT: improved tree-[**Male First Name (un) **] pattern
   Sputum: Pseudomonas
   A:
   1)       Acute Respiratory Failure Secondary to severe asthma
   exacerbation/pneumonia
   2)       Asthma Exacerbation
   3)       Pneumonia (Pseudomonas)/?atypical pneumonia
   Plan:
   1)       Diuresis
   2)       Continue PS today
 wean PEEP
   3)       Continue albuterol/steroids
   4)       Continue Zosyn/levaquin
   5)       Continue  theophylline
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2132-2-13**] 10:11 PM ------

2132-02-14 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PS [**9-11**] 40% with ABG 7.42/63/83/42
   - Changed Zosyn to q6 dosing for pseudomonas per Pharm
   - Lasix gtt with good response
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-12**] 12:21 AM
   Piperacillin - [**2132-2-13**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-14**] 04:10 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Propofol - 80 mcg/Kg/min
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-14**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-14**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 82 (77 - 106) bpm
   BP: 117/60(77) {105/51(68) - 191/93(126)} mmHg
   RR: 16 (9 - 16) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  4,118 mL
                                                                  1,310 mL
   PO:
             TF:
                                                                    517 mL
                                                                    151 mL
   IVF:
                                                                  2,561 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                  3,995 mL
                                                                  1,425 mL
   Urine:
                                                                  3,995 mL
                                                                  1,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    123 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 757 (608 - 792) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 94%
   ABG: 7.40/65/72/45/11
   Ve: 6.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: L conjunctival hemorrhage
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   226 K/uL
   10.8 g/dL
   96 mg/dL
   0.6 mg/dL
   45 mEq/L
   4.2 mEq/L
   25 mg/dL
   94 mEq/L
   143 mEq/L
   31.5 %
   15.6 K/uL
        [image002.jpg]
                             [**2132-2-12**]  09:24 AM
                             [**2132-2-12**]  12:35 PM
                             [**2132-2-13**]  03:51 AM
                             [**2132-2-13**]  05:29 AM
                             [**2132-2-13**]  03:27 PM
                             [**2132-2-13**]  03:39 PM
                             [**2132-2-13**]  08:21 PM
                             [**2132-2-14**]  03:27 AM
                             [**2132-2-14**]  03:47 AM
                             [**2132-2-14**]  06:29 AM
   WBC
   12.6
   15.6
   Hct
   32.3
   31.5
   Plt
   229
   226
   Cr
   0.6
   0.7
   0.6
   TCO2
   43
   39
   46
   48
   42
   49
   42
   Glucose
   114
   126
   96
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.8 g/dL, LDH:195 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation, now mechanical ventilation day #6.  Rapid viral screen
   negative at time of presentation.  Sputum culture positive for
   pan-sensitive pseudomonas.    He initially was treated empirically with
   Ceftriaxone/Axithro as coverage for community-acquired pneumonia, but
   changed to Levo/Zosyn once pseudomonas was speciated.  He is currently
   on Levofloxacin & Zosyn, day # 6.   Ventilatory status has remained
   stable, but failed to improve, raising concerns for alternate causes of
   this asthma exacerbation.  Outpt records indicate hx of steroid
   dependent asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   -  Mini-BAL culture: Pseudomonas, pan-sensitive
   - Continue ipratropium q4 hours and albuterol 10 puffs q 2 hours for
   goal airway resistance < 10
   - Continue PO albuterol to ensure bronchodilatory effects on distal
   airways
   - Pressure control ventilation with sedation and permissive hypercapnia
   to avoid breath stacking, propofol preferential to fentanyl
   - Pressure support trial today
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - Prednisone 60mg daily
   - cont singulair 10 mg daily
   - goal magnesium > 3.0
   - goal rate of 12 with larger tidal volumes
   - continue levo/zosyn, day 7 of 14
   - d/c ASA
   - add theophylline but will change to oral formulation
   - re-scan chest to evaluate lung fields
   # Demand ischemia:  Troponin elevated at time of admission, but CK
   flat and troponins trended down.  No longer trending.
   - Continue statin.
   - d/c'd ASA given prolonged status asthmaticus
   # HyperNa: Improved with free water flushes
   -  Adjust free water as indicated; but will try and decrease overall
   volume intake today
   # FEN:  Continue tube feeds per nutrition recs.
   - Maintain Mg>3; will replete this AM
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-12**] 03:10 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-9**] 12:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-13**] 10:39 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-02-14 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Had to go on CMV due to sedation and RR 8. Increased dilt for
   hypertension. PSa came back pansensitive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-12**] 12:21 AM
   Piperacillin - [**2132-2-13**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-14**] 04:10 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-14**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-14**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 99 (81 - 101) bpm
   BP: 179/86(116) {102/51(68) - 179/89(118)} mmHg
   RR: 11 (9 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  4,118 mL
                                                                  1,963 mL
   PO:
             TF:
                                                                    517 mL
                                                                    219 mL
   IVF:
                                                                  2,561 mL
                                                                    773 mL
   Blood products:
   Total out:
                                                                  3,995 mL
                                                                  2,275 mL
   Urine:
                                                                  3,995 mL
                                                                  2,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    123 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 757 (608 - 792) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.40/65/72/45/11
   Ve: 4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   226 K/uL
   96 mg/dL
   0.6 mg/dL
   45 mEq/L
   4.2 mEq/L
   25 mg/dL
   94 mEq/L
   143 mEq/L
   31.5 %
   15.6 K/uL
         [image002.jpg]
                             [**2132-2-12**]  09:24 AM
                             [**2132-2-12**]  12:35 PM
                             [**2132-2-13**]  03:51 AM
                             [**2132-2-13**]  05:29 AM
                             [**2132-2-13**]  03:27 PM
                             [**2132-2-13**]  03:39 PM
                             [**2132-2-13**]  08:21 PM
                             [**2132-2-14**]  03:27 AM
                             [**2132-2-14**]  03:47 AM
                             [**2132-2-14**]  06:29 AM
   WBC
   12.6
   15.6
   Hct
   32.3
   31.5
   Plt
   229
   226
   Cr
   0.6
   0.7
   0.6
   TCO2
   43
   39
   46
   48
   42
   49
   42
   Glucose
   114
   126
   96
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.8 g/dL, LDH:195 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   1. Asthma/PSA PNA
   -check diff with rising WBC
   -try PS today
   -fentanyl 150 and propofol is 80
   -if find a comfortable mode wean fentanyl
   -diurese 1-2 L today
   -d/c albuterol
   -decrease albuterol to q4h
   -cont. prednisone 60 mg daily
   -may need a trach
   2. Hypertension:
   -cont. dilt 60 mg qid
   -could add ACEI if dilt doesn't work
   -diuresis
   3.FEN: TF, FW [**Month (only) 202**] to q6h
   ICU Care
   Nutrition:
   Replete (Full) - [**2132-2-13**] 10:39 AM 20 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have reviewed and agree with the assessment and plan as described
   above by the fellow with the following modifications and emphasis:
    64 year male with history of asthma presented to OSH with SOB and
   ultimately found to be in respiratory failure requiring intubation.
   Was difficult intubation and also having difficulty ventilating in ED
   and therefore paralyzed pt. with some improvement and transferred to
   the ICU.
   Has been persistently difficult to wean and found that he has severe
   underlying pulmonary disease
   On exam: 37.2   P: 99   BP: 191/93  RR: 12    SaO2: 95%
   Gen: patient is intubated/sedated
   Lung: CTA bilat but decreased expiratory noise
   Heart: S1 S2
   Abd: soft, NT ND
   Ext: no edema
   ABG: 7.4 pCO2 81
   CT: improved tree-[**Male First Name (un) **] pattern
   Sputum: Pseudomonas
   A:
   1)       Acute Respiratory Failure Secondary to severe asthma
   exacerbation/pneumonia
   2)       Asthma Exacerbation
   3)       Pneumonia (Pseudomonas)/?atypical pneumonia
   Plan:
   1)       Attempt SBT again today
   2)       Change to Presadex to see if we can wean more effectively
   3)       Continue albuterol/steroids/diuresis
   4)       Continue Zosyn/levaquin
   5)       Discontinue  theophylline as having arrythmias
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2132-2-14**] 11:04 PM ------

2132-02-15 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Status asthmaticus
   24 Hour Events:
   - tried to wean sedation but BP and HR would [**Doctor Last Name 115**] up.  Unfortunately, RR
   dropped.  Swicthed to Precedex, initially pressures responded but crept
   back up overnight.
   - Pt tolerated [**4-8**] 40% since 4pm
   - seen by IP can do trach and PEG Friday or Monday
   - d/c'd po albuterol, theophylline and spaced out albuterol to q4
   - added lisinopril, increased dilt
   - held tube feeds for possible extubation
   - Hypotensive to 70/40s at approximately 7:30am after A-line flushed,
   NBP correlated; given 1L NS, Lasix, precedex stopped; resolved to SBP
   140s
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2132-2-13**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2132-2-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-2-15**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Wheeze
   Flowsheet Data as of  [**2132-2-15**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 72 (72 - 129) bpm
   BP: 115/57(53) {73/44(53) - 184/95(123)} mmHg
   RR: 23 (9 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  3,721 mL
                                                                  1,817 mL
   PO:
             TF:
                                                                    592 mL
                                                                     15 mL
   IVF:
                                                                  1,579 mL
                                                                  1,402 mL
   Blood products:
   Total out:
                                                                  4,675 mL
                                                                  2,300 mL
   Urine:
                                                                  4,675 mL
                                                                  2,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -954 mL
                                                                   -483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 523 (523 - 1,000) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: 7.50/56/84.[**Numeric Identifier 1132**]/40/16
   Ve: 9.4 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   11.6 g/dL
   103 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.2 mEq/L
   25 mg/dL
   93 mEq/L
   141 mEq/L
   34.2 %
   15.4 K/uL
        [image002.jpg]
                             [**2132-2-13**]  05:29 AM
                             [**2132-2-13**]  03:27 PM
                             [**2132-2-13**]  03:39 PM
                             [**2132-2-13**]  08:21 PM
                             [**2132-2-14**]  03:27 AM
                             [**2132-2-14**]  03:47 AM
                             [**2132-2-14**]  06:29 AM
                             [**2132-2-14**]  12:32 PM
                             [**2132-2-15**]  04:37 AM
                             [**2132-2-15**]  04:56 AM
   WBC
   15.6
   15.4
   Hct
   31.5
   34.2
   Plt
   226
   206
   Cr
   0.7
   0.6
   0.6
   TCO2
   46
   48
   42
   49
   42
   40
   45
   Glucose
   126
   96
   103
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation, now mechanical ventilation day #9.  Rapid viral screen
   negative at time of presentation.  Sputum culture positive for
   pan-sensitive pseudomonas.    He initially was treated empirically with
   Ceftriaxone/Axithro as coverage for community-acquired pneumonia, but
   changed to Levo/Zosyn once pseudomonas was speciated.  He is currently
   on Levofloxacin & Zosyn, day # 9.   Ventilatory status has remained
   stable, but failed to improve, raising concerns for alternate causes of
   this asthma exacerbation.  Outpt records indicate hx of steroid
   dependent asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   Discontinued ASA given potential for bronchospasm.
   -  Mini-BAL culture: Pseudomonas, pan-sensitive; on Zosyn
   - Continue ipratropium q4 hours and albuterol 10 puffs q 4 hours for
   goal airway resistance < 10
 switch to nebs
   - extubated today
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - Prednisone 60mg daily
   - cont singulair 10 mg daily
   - goal magnesium > 3.0
   - continue levo/zosyn, day 9 of 14
   - theophylline discontinued given tachycardia and hypertension
   - Diurese, goal -1 to 1.5 Liters [**2-14**] but then hypotensive; gave back 1
   L but lungs sounded wet on exam post-intubation
   - ECHO
 evaluate for pulm hypertension
   - goal today -500cc-1L
   # Demand ischemia:  Troponin elevated at time of admission, but CK
   flat and troponins trended down.  No longer trending.
   - Continue statin.
   - d/c'd ASA given prolonged status asthmaticus
   - ECHO
   # HTN: Has been more increased lately, could be [**1-7**] to agitation but
   does have baseline HTN.
   -          Increased home Dilt to 240mg total daily (60 QID), can
   tailor back if stays extubated
   -          started on ACE, can increase dose is still hypertensive when
   fluid off
   -          Switch all meds to IV while respiratory status tenous
   -          Consider nitro paste
   # HyperNa: Improved with free water flushes.
   -  Adjust free water as indicated; but will try and decrease overall
   volume intake
   # FEN:  Continue tube feeds per nutrition recs.
   - Maintain Mg>3; will replete this AM
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   ICU Care
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Code status:  FULL
   Disposition:  ICU

2132-02-15 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Didn't tolerate precedex [**1-7**] hypotension. Also given 1L IVF for 70/40
   BP. Extubated this am with RISB 47.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2132-2-13**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-15**] 04:41 AM
   Lansoprazole (Prevacid) - [**2132-2-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-15**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.4
   HR: 102 (72 - 129) bpm
   BP: 145/92(103) {76/45(52) - 145/92(103)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  3,721 mL
                                                                  1,839 mL
   PO:
             TF:
                                                                    592 mL
                                                                     15 mL
   IVF:
                                                                  1,579 mL
                                                                  1,424 mL
   Blood products:
   Total out:
                                                                  4,675 mL
                                                                  2,990 mL
   Urine:
                                                                  4,675 mL
                                                                  2,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -954 mL
                                                                 -1,151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 663 (523 - 1,000) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.50/56/84.[**Numeric Identifier 1132**]/40/16
   Ve: 9.8 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   206 K/uL
   103 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.2 mEq/L
   25 mg/dL
   93 mEq/L
   141 mEq/L
   34.2 %
   15.4 K/uL
        [image002.jpg]
                             [**2132-2-13**]  05:29 AM
                             [**2132-2-13**]  03:27 PM
                             [**2132-2-13**]  03:39 PM
                             [**2132-2-13**]  08:21 PM
                             [**2132-2-14**]  03:27 AM
                             [**2132-2-14**]  03:47 AM
                             [**2132-2-14**]  06:29 AM
                             [**2132-2-14**]  12:32 PM
                             [**2132-2-15**]  04:37 AM
                             [**2132-2-15**]  04:56 AM
   WBC
   15.6
   15.4
   Hct
   31.5
   34.2
   Plt
   226
   206
   Cr
   0.7
   0.6
   0.6
   TCO2
   46
   48
   42
   49
   42
   40
   45
   Glucose
   126
   96
   103
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   1. asthma, HAP vs. CAP
   -zosyn and levaquin
   -albuterol nebs q4h and q2h prn
   -20 IV lasix, goal
   -cont. 60 mg prednisone
   -singulair
   -check ABG in 1h
   2. Hypertension: Cont. dilt
   -check TTE for diastolic dysfunction, r/o PAH
   -nitropaste if BP stays elevated
   -diurese 1L
   -cont. statin
   3. FEN: Advance as tolerated
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have reviewed and agree with the assessment and plan as described
   above by the fellow with the following modifications and emphasis:
    64 year male with history of asthma presented to OSH with SOB and
   ultimately found to be in respiratory failure requiring intubation.
   Was difficult intubation and also having difficulty ventilating in ED
   and therefore paralyzed pt. with some improvement and transferred to
   the ICU.
   Has been persistently difficult to wean and found that he has severe
   underlying pulmonary disease
   On exam: 37.2   P: 102   BP: 145/93  RR: 12    SaO2: 95%  PS 5/5
   Gen: patient is intubated
   Lung: CTA bilat but decreased expiratory noise
   Heart: S1 S2
   Abd: soft, NT ND
   Ext: no edema
   ABG: 7.4 pCO2 52
   Sputum: Pseudomonas
   A:
   1)       Acute Respiratory Failure Secondary to severe asthma
   exacerbation/pneumonia
   2)       Asthma Exacerbation
   3)       Pneumonia (Pseudomonas)/?atypical pneumonia
   Plan:
   1)       Attempt extubation
 difficult airway so airway
   cart/anesthesia available
   2)       Continue albuterol/steroids/diuresis
   3)       Continue Zosyn/levaquin
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2132-2-15**] 07:47 PM ------

2132-02-16 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Status asthmaticus
   24 Hour Events:
   - Extubated at approximately 11am
   - Continued to look poorly throughout day but held oxygen saturation
   >90%, ABGs monitored with some interval loss in oxygen saturation
   - Anesthesia on-call was paged and evaluated the patient given h/o
   difficult airway
   - PO prednisone changed to IV solumedrol per pharmacy dosing
   - Echo obtained: Hyperdynamic with Ef > 75%
   - Throughout day, persistently tachy with HR > 110 and hypertensive
   with SBP > 135; after falling asleep [**2-16**] AM VS improved to HR 95, BP
   100/56
   - Given Enalapril during day for hypertension without significant
   effect
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-16**] 04:56 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2132-2-15**] 08:00 AM
   Furosemide (Lasix) - [**2132-2-15**] 10:41 AM
   Heparin Sodium (Prophylaxis) - [**2132-2-16**] 04:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Cough, Dyspnea
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated, expresses desire to die
   Flowsheet Data as of  [**2132-2-16**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 94 (83 - 132) bpm
   BP: 102/57(70) {74/45(70) - 181/105(130)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,434 mL
                                                                    319 mL
   PO:
             TF:
                                                                     15 mL
   IVF:
                                                                  2,019 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  4,845 mL
                                                                  1,125 mL
   Urine:
                                                                  4,745 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,411 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 712 (663 - 712) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 95%
   ABG: 7.51/41/63/31/8
   Ve: 9.8 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): person, place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   218 K/uL
   12.5 g/dL
   91 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   25 mg/dL
   101 mEq/L
   142 mEq/L
   37.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2132-2-15**]  04:37 AM
                             [**2132-2-15**]  04:56 AM
                             [**2132-2-15**]  10:08 AM
                             [**2132-2-15**]  11:15 AM
                             [**2132-2-15**]  02:56 PM
                             [**2132-2-15**]  07:22 PM
                             [**2132-2-15**]  09:45 PM
                             [**2132-2-16**]  01:21 AM
                             [**2132-2-16**]  04:01 AM
                             [**2132-2-16**]  04:15 AM
   WBC
   15.4
   12.7
   Hct
   34.2
   37.0
   Plt
   206
   218
   Cr
   0.6
   0.6
   TCO2
   45
   39
   34
   37
   39
   35
   34
   34
   Glucose
   103
   91
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation.  Rapid viral screen negative at time of presentation.
   Sputum culture positive for pan-sensitive pseudomonas.    He initially
   was treated empirically with Ceftriaxone/Axithro as coverage for
   community-acquired pneumonia, but changed to Levo/Zosyn once
   pseudomonas was speciated.   Ventilatory status has remained stable,
   but failed to improve, raising concerns for alternate causes of this
   asthma exacerbation.  Outpt records indicate hx of steroid dependent
   asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   Discontinued ASA given potential for bronchospasm.  Theophylline
   discontinued given tachycardia and hypertension.   Extubated [**2-15**],
   appeared to have continued respiratory distress throughout day but no
   significant changes on repeat ABGs.
   -  Mini-BAL culture: Pseudomonas, pan-sensitive; on Zosyn
   - Continue ipratropium q4 hours and albuterol nebs
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - Prednisone 60mg daily
 solumedrol while NPO
   - cont singulair 10 mg daily
   - goal magnesium > 3.0
   - continue levo/zosyn, day 10 of 14
   # Demand ischemia:  Troponin elevated at time of admission, but CK
   flat and troponins trended down.  No longer trending. ECHO [**2-15**],
   hyperdynamic.
   - Continue statin.
   - d/c'd ASA given prolonged status asthmaticus
   # HTN: Has been more increased lately, could be [**1-7**] to agitation but
   does have baseline HTN.
   -          Increased home Dilt to 240mg total daily (60 QID), can
   tailor back if stays extubated
   -          started on ACE, can increase dose is still hypertensive when
   fluid off
   -          Switch all meds to IV while respiratory status tenous
   -          Consider nitro paste
   # HyperNa: Improved with free water flushes.
   -  Adjust free water as indicated; but will try and decrease overall
   volume intake
   # FEN:  NPO, OG tube removed during extubation.
   - Maintain Mg>3; will replete this AM
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   ICU Care
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Code status:  FULL

2132-02-17 06:48:00 Physician Resident Progress Note
Chief Complaint: Asthma exacerbation
   24 Hour Events:
   - ABGs OK
   - D51/2 NS at 75cc/hr for maintenance while NPO
   - tried bipap x 1 hour to rest pt, however, put on auto-set CPAP
   - slightly confused at times overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-17**] 12:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-17**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-17**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-17**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 119 (91 - 122) bpm
   BP: 134/77(95) {102/57(70) - 175/95(121)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  1,649 mL
                                                                    530 mL
   PO:
             TF:
   IVF:
                                                                  1,649 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                    925 mL
   Urine:
                                                                  2,710 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,061 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: 7.53/31/63/27/3
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse BS bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, place, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   209 K/uL
   11.9 g/dL
   95 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   22 mg/dL
   106 mEq/L
   144 mEq/L
   33.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2132-2-15**]  07:22 PM
                             [**2132-2-15**]  09:45 PM
                             [**2132-2-16**]  01:21 AM
                             [**2132-2-16**]  04:01 AM
                             [**2132-2-16**]  04:15 AM
                             [**2132-2-16**]  08:03 AM
                             [**2132-2-16**]  02:52 PM
                             [**2132-2-17**]  03:21 AM
                             [**2132-2-17**]  03:36 AM
                             [**2132-2-17**]  05:00 AM
   WBC
   12.7
   12.1
   Hct
   37.0
   33.9
   Plt
   218
   209
   Cr
   0.6
   0.7
   TCO2
   39
   35
   34
   34
   33
   34
   31
   27
   Glucose
   91
   95
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DEPRESSION
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation.  Rapid viral screen negative at time of presentation.
   Sputum culture positive for pan-sensitive pseudomonas.    He initially
   was treated empirically with Ceftriaxone/Axithro as coverage for
   community-acquired pneumonia, but changed to Levo/Zosyn once
   pseudomonas was speciated.   Ventilatory status has remained stable,
   but failed to improve, raising concerns for alternate causes of this
   asthma exacerbation.  Outpt records indicate hx of steroid dependent
   asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   Discontinued ASA given potential for bronchospasm.  Theophylline
   discontinued given tachycardia and hypertension.   Extubated [**2-15**],
   appeared to have continued respiratory distress throughout day but no
   significant changes on repeat ABGs.
   - Mini-BAL culture: Pseudomonas, pan-sensitive; on Zosyn
   - Continue ipratropium q4 hours and albuterol nebs
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - Prednisone 60mg daily
 solumedrol 40 while NPO
   - cont singulair 10 mg daily once no longer NPO
   - goal magnesium > 3.0
   - continue levo/zosyn, day 11 of 14
   - BiPAP 10/8 2-3x/day to rest muscles of respiration
   # Demand ischemia:  Troponin elevated at time of admission, but CKs
   flat and troponins trended down.  No longer trending. ECHO [**2-15**],
   hyperdynamic.
   - Continue statin once no longer NPO
   - d/c'd ASA given prolonged status asthmaticus
   # HTN: Has been more increased lately, could be [**1-7**] to agitation but
   does have baseline HTN.
   -          Home Dilt 180mg total daily, holding given NPO
   -          started on [**Last Name (LF) **], [**First Name3 (LF) 116**] increase enalapril today
   # HyperNa: Improved with free water flushes.
   -          Adjust free water as indicated; but will try and decrease
   overall volume intake
   -          Goal even to 500 negative today
   # FEN:  NPO, OG tube removed during extubation
   -          Maintain Mg>3
   -          Formal S&S eval tomorrow
   -
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   DISPO:  Keep in the ICU under close monitoring for 24-48 hours longer
   given tenuous respiratory status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:  PPI IV
   VAP:  HOB, Mouth care
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition: ICU

2132-02-18 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Status asthmaticus
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2132-2-17**] 05:28 PM
   - HCT drop in setting of >1L diureses, 37-->33, stools grossly guaiac
   positive, OG lavage some black flecks otherwise negative
   - Bipap for rest
   - generalized weakness concerning for steroid-induced myopathy
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-18**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-18**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-2-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-2-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2132-2-18**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 77 (77 - 105) bpm
   BP: 117/78(92) {103/60(74) - 192/156(168)} mmHg
   RR: 19 (9 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,109 mL
                                                                  1,052 mL
   PO:
             TF:
   IVF:
                                                                  2,109 mL
                                                                  1,052 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    655 mL
   Urine:
                                                                  2,465 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -356 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (433 - 892) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.48/33/123/25/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   10.7 g/dL
   116 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   20 mg/dL
   113 mEq/L
   148 mEq/L
   31.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2132-2-16**]  04:01 AM
                             [**2132-2-16**]  04:15 AM
                             [**2132-2-16**]  08:03 AM
                             [**2132-2-16**]  02:52 PM
                             [**2132-2-17**]  03:21 AM
                             [**2132-2-17**]  03:36 AM
                             [**2132-2-17**]  05:00 AM
                             [**2132-2-17**]  11:14 AM
                             [**2132-2-17**]  03:48 PM
                             [**2132-2-18**]  03:58 AM
   WBC
   12.7
   12.1
   8.4
   Hct
   37.0
   33.9
   33.7
   31.2
   Plt
   [**Telephone/Fax (3) 4823**]
   Cr
   0.6
   0.7
   0.6
   TCO2
   34
   33
   34
   31
   27
   25
   Glucose
   91
   95
   116
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation.  Rapid viral screen negative at time of presentation.
   Sputum culture positive for pan-sensitive pseudomonas.    He initially
   was treated empirically with Ceftriaxone/Axithro as coverage for
   community-acquired pneumonia, but changed to Levo/Zosyn once
   pseudomonas was speciated.   Ventilatory status has remained stable,
   but failed to improve, raising concerns for alternate causes of this
   asthma exacerbation.  Outpt records indicate hx of steroid dependent
   asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   Discontinued ASA given potential for bronchospasm.  Theophylline
   discontinued given tachycardia and hypertension.   Extubated [**2-15**],
   appeared to have continued respiratory distress throughout day but no
   significant changes on repeat ABGs.
   - Mini-BAL culture: Pseudomonas, pan-sensitive; on Zosyn
   - Continue ipratropium q4 hours and albuterol nebs
   - goal pH 7.2 to 7.3 with permissive hypercapnea to minimize breath
   stacking, pCO2 goal less than 90
   - Prednisone 60mg daily
 solumedrol 40 while NPO
   - cont singulair 10 mg daily once no longer NPO
   - goal magnesium > 3.0
   - continue levo/zosyn, day 12 of 14
   - BiPAP 10/8 2-3x/day to rest muscles of respiration
   # Guaiac Positive stools: [**2-17**] noted to have guaiac positive stools
   with associated Hct drop, while being diuresed.  OG lavage no red
   blood,  only very trace black flecks.  Had not had PPI x 2 days since
   NPO.  Placed on IV PPI [**Hospital1 **].
   - Q6H Hct
   - IV PPI [**Hospital1 **]
   - Active T&C
   - Consult GI this AM
   - NPO
   # Demand ischemia:  Troponin elevated at time of admission, but CKs
   flat and troponins trended down.  No longer trending. ECHO [**2-15**],
   hyperdynamic.
   - Continue statin once no longer NPO
   - d/c'd ASA given prolonged status asthmaticus
   # HTN: Has been more increased lately, could be [**1-7**] to agitation but
   does have baseline HTN.
   -          Home Dilt 180mg total daily, now in IV BID
   -          started on ACE, enalapril IV, will decrease dose while
   unstable blood volume
   # HyperNa: Improved with free water flushes.
   -          Adjust free water as indicated; but will try and decrease
   overall volume intake
   -          Goal even to 500 negative today
   # FEN:  NPO, OG tube removed during extubation
   -          Maintain Mg>3
   -          Postpone S&S eval tomorrow
   -          Concern for for oral intake if truly with GI bleed, consider
   TPN for short term
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   DISPO:  Keep in the ICU under close monitoring for 24-48 hours longer
   given tenuous respiratory status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:  ICU

2132-02-18 11:40:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Rested on BiPAP overnight. Diuresed, noted to have a hct drop with
   melena, OG lavage unremarkable. Appears to have diffuse weakness
   suspicious for steroid myopathy.
 NON-INVASIVE VENTILATION - START [**2132-2-17**] 05:28 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-18**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-18**] 09:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-18**] 04:00 AM
   Pantoprazole (Protonix) - [**2132-2-18**] 08:07 AM
   Diltiazem - [**2132-2-18**] 09:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-18**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 85 (77 - 105) bpm
   BP: 102/69(81) {102/60(74) - 192/156(168)} mmHg
   RR: 17 (9 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,109 mL
                                                                  1,610 mL
   PO:
             TF:
   IVF:
                                                                  2,109 mL
                                                                  1,610 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    930 mL
   Urine:
                                                                  2,465 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -356 mL
                                                                    680 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (433 - 892) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: 7.48/33/123/25/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   190 K/uL
   116 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   20 mg/dL
   113 mEq/L
   148 mEq/L
   29.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2132-2-16**]  04:15 AM
                             [**2132-2-16**]  08:03 AM
                             [**2132-2-16**]  02:52 PM
                             [**2132-2-17**]  03:21 AM
                             [**2132-2-17**]  03:36 AM
                             [**2132-2-17**]  05:00 AM
                             [**2132-2-17**]  11:14 AM
                             [**2132-2-17**]  03:48 PM
                             [**2132-2-18**]  03:58 AM
                             [**2132-2-18**]  10:19 AM
   WBC
   12.1
   8.4
   Hct
   33.9
   33.7
   31.2
   29.4
   Plt
   209
   190
   Cr
   0.7
   0.6
   TCO2
   34
   33
   34
   31
   27
   25
   Glucose
   95
   116
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 DEPRESSION
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Plan:
   1. Upper GI Bleed: Negative OG lavage
   -type and cross
   -place 2 large PIVs
   -consult GI
   -hold sc hep, use pneumoboots
   -NPO for now
   -hct q6h
   2. Asthma: Cont. levoflox and zosyn for 14 days
   -cont. solumedrol 30 mg daily
   3. htn: Cont. enalapril and dilt IV
   -decrease enalapril given GIB
   4. FEN: Start TPN
   -start FW
   5. Place an 18G IV, PT consult for ROM
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Pt seen and examined on rounds, agree with Dr. [**First Name (STitle) 1068**]
s note as outlined
   above. 64 yo male admitted with status asthmaticus, respiratory failure
   and Pseudomonas PNA. Is slowly recovering from PNA/respiratory failure,
   but has new onset melana with acute blood loss anemia. Also appeared
   profoundly weak; ?steroid myopathy. Plan GI consult, T&C, serial hcts.
   Will start parenteral nutrition and have him seen by PT. Family updated
   by bedside.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2132-2-18**] 14:12 ------

2132-02-19 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - HCT continued to trend down slowly, then stabilized
   at approximately 29
   - Plan to transfuse on 1u PRBC given progression of dropping HCT, but
   family refused
   - GI consulted: IV PPI [**Hospital1 **], transfuses for < 27, check H.pyloir Ab
   - Tapered Solumedrol 40mg --> 30mg
   - Decreased Enalparil dosing
   - Started on TPN given NPO status for potential GIB
   - Obtain Speech & Swallow evaluation Tuesday
   - Need to discuss with CM & family potential d/c to rehab later this
   week
   - PT to see patient, have not done so yet
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2132-2-18**] 08:05 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-19**] 12:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-2-18**] 08:08 PM
   Diltiazem - [**2132-2-18**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2132-2-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 88 (73 - 100) bpm
   BP: 165/119(135) {102/63(81) - 172/122(136)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,979 mL
                                                                    680 mL
   PO:
             TF:
   IVF:
                                                                  2,585 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    685 mL
   Urine:
                                                                  1,990 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    989 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45/34/98.[**Numeric Identifier 500**]/24/0
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   11.0 g/dL
   106 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   17 mg/dL
   112 mEq/L
   145 mEq/L
   30.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2132-2-17**]  03:36 AM
                             [**2132-2-17**]  05:00 AM
                             [**2132-2-17**]  11:14 AM
                             [**2132-2-17**]  03:48 PM
                             [**2132-2-18**]  03:58 AM
                             [**2132-2-18**]  10:19 AM
                             [**2132-2-18**]  12:38 PM
                             [**2132-2-18**]  04:41 PM
                             [**2132-2-19**]  03:37 AM
                             [**2132-2-19**]  04:01 AM
   WBC
   8.4
   10.9
   Hct
   33.7
   31.2
   29.4
   29.9
   30.9
   Plt
   190
   202
   Cr
   0.6
   0.6
   TCO2
   31
   27
   25
   28
   24
   Glucose
   116
   106
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   64 y/o gentleman with asthma, hypertension and hypercholesterolemia
   presents with acute respiratory failure.
   # Respiratory Failure:  Patient presented with severe asthma
   exacerbation.  Rapid viral screen negative at time of presentation.
   Sputum culture positive for pan-sensitive pseudomonas.    He initially
   was treated empirically with Ceftriaxone/Axithro as coverage for
   community-acquired pneumonia, but changed to Levo/Zosyn once
   pseudomonas was speciated.   Ventilatory status has remained stable,
   but failed to improve, raising concerns for alternate causes of this
   asthma exacerbation.  Outpt records indicate hx of steroid dependent
   asthma x years. Although initially did not think he had PCP
   prophylaxis, outside records indicate that he was on Bactrim. Mini-BAL
   [**2-10**] revealed PMNs, no organisms seen. LDH normal, so may not be PCP.
   [**Name10 (NameIs) 4653**] was negative for organisms, and PCP but has grown out two
   species of GNR concerning for oral flora, awaiting speciation.  [**2-10**] had
   pressure support trial which he initially did well on, pulling volumes
   to 800cc; he then worsened with decreased volumes to 500cc and
   tachypnea; he was then place on volume control and did well.
   Discontinued ASA given potential for bronchospasm.  Theophylline
   discontinued given tachycardia and hypertension.   Extubated [**2-15**],
   appeared to have continued respiratory distress throughout day but no
   significant changes on repeat ABGs.   Goal pH 7.2 to 7.3 with
   permissive hypercapnea to minimize breath stacking, pCO2 goal less than
   90.
   - Mini-BAL culture: Pseudomonas, pan-sensitive; on Zosyn
   - Continue ipratropium q4 hours and albuterol nebs
 MDI
   - Prednisone 60mg daily
 solumedrol 40
 tapered to 30mg [**2-18**] (plan
   for long taper)
   - cont singulair 10 mg daily once no longer NPO
   - continue levo/zosyn, day 13 of 14
   - BiPAP 10/8 2-3x/day to rest muscles of respiration
   # Guaiac Positive stools: [**2-17**] noted to have guaiac positive stools
   with associated Hct drop, while being diuresed.  OG lavage no red
   blood,  only very trace black flecks.  Had not had PPI x 2 days since
   NPO.  Placed on IV PPI [**Hospital1 **].  GI consult recommended [**Hospital1 **] PPI, monitor
   Hct.  Stabilized [**2-18**].
   - Q12 Hct
   - IV PPI [**Hospital1 **]
   - Active T&C
   - Follow-up GI
   # Demand ischemia:  Troponin elevated at time of admission, but CKs
   flat and troponins trended down.  No longer trending. ECHO [**2-15**],
   hyperdynamic.
   - Continue statin once no longer NPO
   - d/c'd ASA given prolonged status asthmaticus
   # HTN: Has been more increased lately, could be [**1-7**] to agitation but
   does have baseline HTN.
   -          Home Dilt 180mg total daily, now in IV BID (change to po as
   able)
   -          started on ACE, enalapril IV, will decrease dose while
   unstable blood volume
   # HyperNa: Improved with free water flushes.
   -          Adjust free water as indicated; but will try and decrease
   overall volume intake
   -          Goal even to 500 negative today
   -          .
   # Physical decline: [**1-7**] steroid myopathy.  PT to evaluated today.
   -          PT eval
   -          CM for rehab
   # FEN:  NPO, OG tube removed during extubation
   -          Maintain Mg>3
   -          S&S eval today
   -          Given TPN x 1 day [**2-18**]
   # Contact: [**Name (NI) 4514**] [**Name (NI) 4515**], wife [**Telephone/Fax (1) 4516**]
   DISPO:  Call-out given improvement
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2132-2-18**] 04:07 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM  -
 d/c
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-02-19 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hct has been stable. Resp status stable without NIPPV.
 NON-INVASIVE VENTILATION - STOP [**2132-2-18**] 08:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-2-19**] 12:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-2-18**] 08:08 PM
   Diltiazem - [**2132-2-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-19**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 82 (73 - 100) bpm
   BP: 132/79(100) {102/63(81) - 172/122(136)} mmHg
   RR: 22 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 92.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,979 mL
                                                                    825 mL
   PO:
             TF:
   IVF:
                                                                  2,585 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    865 mL
   Urine:
                                                                  1,990 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    989 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45/34/98.[**Numeric Identifier 500**]/24/0
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   202 K/uL
   106 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   17 mg/dL
   112 mEq/L
   145 mEq/L
   30.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2132-2-17**]  03:36 AM
                             [**2132-2-17**]  05:00 AM
                             [**2132-2-17**]  11:14 AM
                             [**2132-2-17**]  03:48 PM
                             [**2132-2-18**]  03:58 AM
                             [**2132-2-18**]  10:19 AM
                             [**2132-2-18**]  12:38 PM
                             [**2132-2-18**]  04:41 PM
                             [**2132-2-19**]  03:37 AM
                             [**2132-2-19**]  04:01 AM
   WBC
   8.4
   10.9
   Hct
   33.7
   31.2
   29.4
   29.9
   30.9
   Plt
   190
   202
   Cr
   0.6
   0.6
   TCO2
   31
   27
   25
   28
   24
   Glucose
   116
   106
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB /
   Troponin-T:119/7/0.04, Differential-Neuts:75.0 %, Band:1.0 %, Lymph:9.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL,
   LDH:195 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 DEPRESSION
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   1. GIB: No further melena, hct stable
   -[**Hospital1 **] hct
   -PPI [**Hospital1 **]
   -GI recs
   2. asthma, PSA PNA:
   -day 13/14 of levaquin and zosyn
   -solumedrol 30 mg IV daily
   -start home inhalers
   3. htn: cont. dilt and enalapril
   4. FEN: video swallow and possible advance diet today
   5. d/c Foley and aline
   6. rehab screen
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2132-2-18**] 04:07 PM 50 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2132-2-6**] 06:45 AM
   PICC Line - [**2132-2-8**] 08:00 PM
   20 Gauge - [**2132-2-13**] 04:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt today, and agree with the note of Dr. [**First Name (STitle) 1068**]
   as outlined above. 64 yo male with asthma admitted with acute
   respiratory failure and status asthmaticus in the setting of
   Pseudomonas PNA. Extubated [**2132-2-15**]. Over the past day, he has not had
   further melana, and his hct has remained unchanged by serial testing.
   Seen by the GI consult team but no intervention indicated currently
   with apparent resolution of GI bleed. Remains profoundly deconditioned,
   and was not deemed safe to take po by Speech Therapy- after discussion
   with wife they appeared to a [**Name (NI) **] for tube feeds.
   On exam, alert, following commands. Lungs with rales at bases,
   occasional scattered rhonchi, fair air movement. CV: RRR Abd: soft,
   nontender, hypoactive bs. Ext bilateral boots, no calf tenderness.
   Appears appropriate for floor transfer. Will complete a 14 day course
   of levaquin/zosyn for Pseudomonas PNA and continue work with PT.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2132-2-19**] 16:48 ------